US08138189B2
Steps 1 to 3: 5-[2-(2,3-Dichloro-4-methoxy-phenyl)-propionyl]-1-methyl-1H-pyridin-2-one
The title compound was prepared in analogy to Example 189, steps 1-3, from (2,3-dichloro-4-methoxyphenyl)acetic acid methyl ester and 1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid. Colorless solid. MS (m/e)=340.1 [M+H+].

reactant | (2,3-dichloro-4-methoxyphenyl)acetic acid methyl ester | COC(CC1=C(C(=C(C=C1)OC)Cl)Cl)=O | C10H10Cl2O3
reactant | 1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid | CN1C=C(C=CC1=O)C(=O)O | C7H7NO3
product | 5-[2-(2,3-Dichloro-4-methoxy-phenyl)-propionyl]-1-methyl-1H-pyridin-2-one | ClC1=C(C=CC(=C1Cl)OC)C(C(=O)C=1C=CC(N(C1)C)=O)C | C16H15Cl2NO3
